US04258047
A mixture of 29.4 g of (5-p-chlorophenyl-1-phenyl-pyrazol-4-yl)-acetonitrile, 8.06 g of sodium azide, 6.64 g of NH4Cl and 140 ml of dry DMF is heated at 120° for 17 hours, with stirring, and is then evaporated. After the customary working up, 5-p-chlorophenyl-1-phenyl-4-(tetrazol-5-ylmethyl)-pyrazole is obtained; m.p. 230°-232°.

reactant | (5-p-chlorophenyl-1-phenyl-pyrazol-4-yl)-acetonitrile | 29.4 g | ClC1=CC=C(C=C1)C1=C(C=NN1C1=CC=CC=C1)CC#N | C17H12ClN3
reactant | sodium azide | 8.06 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 6.64 g | [NH4+].[Cl-]
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
product | 5-p-chlorophenyl-1-phenyl-4-(tetrazol-5-ylmethyl)-pyrazole | ClC1=CC=C(C=C1)C1=C(C=NN1C1=CC=CC=C1)CC1=NN=NN1 | C17H13ClN6
